US04777172
2-Methyl-3-keto-4-methoxybutyric acid ethyl ester (60 g) and formamidine acetate (39.06 g) were dissolved in methanol (150 ml) and treated, under nitrogen, with a sodium methoxide solution, prepared from sodium (17.42 g) and methanol (225 ml). The mixture was stirred at 50° for 23 hours, stripped, water added and the pH lowered to 7 (HCl). The solution was extracted with chloroform, extracts dried (MgSO4) and stripped to a residue, which was triturated with diethyl ether to give 4-methoxymethyl-5-methyl-6-hydroxypyrimidine, 38.72 g, m.p. 139°-140°.

reactant | 2-Methyl-3-keto-4-methoxybutyric acid ethyl ester | 60 g | C(C)OC(C(C(COC)=O)C)=O | C8H14O4
reactant | formamidine acetate | 39.06 g | C(C)(=O)O.C(=N)N
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 17.42 g | [Na] | Na
reactant | HCl | Cl | ClH
solvent | methanol | 150 ml | CO | CH4O
solvent | methanol | 225 ml | CO | CH4O
solvent | water | O | H2O
product | 4-methoxymethyl-5-methyl-6-hydroxypyrimidine | COCC1=NC=NC(=C1C)O | C7H10N2O2
